US07776875B2
Preparation of Intermediate E/Z-6-chloro-3-[5-chloro-2-(1-cyano-cyclopentylmethoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
In a manner similar to the method described in Example 1c, E/Z-1-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxymethyl]-cyclopentanecarbonitrile (19 g, 46 mmol) was reacted with di-tert-butyl-dicarbonate (15 g, 69 mmol) and 4-dimethylaminopyridine (0.56 g, 4.6 mmol) in CH2Cl2 to give the title compound as a yellow oil (14 g).

reactant | Z-1-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxymethyl]-cyclopentanecarbonitrile | 46 mmol, 19 g | ClC1=CC(=C(OCC2(CCCC2)C#N)C=C1)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O | C22H18Cl2N2O2
reactant | di-tert-butyl-dicarbonate | 69 mmol, 15 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 4.6 mmol, 0.56 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Z-6-chloro-3-[5-chloro-2-(1-cyano-cyclopentylmethoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 14 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OCC1(CCCC1)C#N)=O | C27H26Cl2N2O4
